* R5-A biased-quantizer receiver: R0b front end + weak mutual coupling to a
* biased L_QB + B_SET quantizer loop.  |K|=0.80, frozen additive polarity
* (negative K sign: raw read1 negative I(L_TX) lobe adds to +4.2 uA bias).
* R_GAUGE 1Gohm is the MNA common-mode reference only (verified nil in R4-A).
.subckt R5A_SOURCE_CAPTURE IN

* Canonical SL -> R_IN -> L_TX -> B_TRIG front end, unchanged.
R_IN          IN          N_PICK      12.0
L_TX          N_PICK      N_TRIG       0.20p
B_TRIG        N_TRIG      0            jjmit area=0.50
I_TRIG_BIAS   0           N_TRIG       pwl(0p 0 2p 15U 80p 15U 140p 15U 170p 15U)

* Biased quantizer loop.
L_QB          N_A         N_B          100p
B_SET         N_B         N_A          jjmit area=0.05
I_SET_BIAS    N_B         N_A          pwl(0p 0 2p 4.2U 80p 4.2U 140p 4.2U 170p 4.2U)
R_GAUGE       N_A         0            1G

K_TX_LH       L_TX        L_QB         -0.80

.ends R5A_SOURCE_CAPTURE
